US04298748
A publication in J. Amer. Chem. Soc. 70 (1948), 1,629-1,632 discloses that the reaction can also be carried out with the free base in the absence of hydrochloric acid, at from 180° to 220° C.; as shown by the description and all the Examples, the reaction is intended to be carried out with a molar ratio of the reactants of 1:1, and in the presence of benzene in the reaction mixture. During the reaction, an azeotropic mixture of benzene and water is distilled off. In spite of this special procedure, substantial amounts of a high-boiling by-product are always found alongside the imidazoline. The publication describes, and shows with Examples, that the yield of this by-product increases with the number of carbon atoms in the alkanecarboxylic acid molecule; for example, reactions with acetic acid give a 32.7 percent yield, and those with myristic and a 92.5 percent yield, of high-boiling by-product. In the case of stearic acid, only the by-product is obtained, the yield being virtually quantitative. The yields of imidazoline are 26.6 percent in the case of acetic acid, 13.3 percent in the case of formic acid, 12.9 percent in the case of propionic acid and 15.4 percent in the case of caproic acid. The yields for longer-chain carboxylic acids are not stated. The recovery of a part of the imidazoline from the by-product is only possible by laborious methods, for example by treatment with aqueous sodium hydroxide solution, extraction with ether, drying the ether extract over solid potassium hydroxide, evaporation of the ether and fractional distillation.

reactant | hydrochloric acid | Cl | ClH
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
product | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
